US07301032B2
300 mg of 3-methylsulfonyl-5-(cyclohexyl)methyl-1,2,4-thiadiazole and 89 mg of 2-butyn-1-ol were dissolved in 2.5 g of N,N-dimethylformamide, 55 mg of sodium hydride (60% in oil) was added thereto, and the reaction mixture was stirred for 30 minutes under ice-cooling. Then, the reaction mixture was added to saturated brine, and extracted with t-butyl methyl ether. The organic layer was concentrated under reduced pressure, and the residue obtained was subjected to silica gel column chromatography to give 222 mg of 5-(cyclohexyl)methyl-3-(2-butynyloxy)-1,2,4-thiadiazole (hereinafter referred to as the present invention compound (5)).

reactant | 3-methylsulfonyl-5-(cyclohexyl)methyl-1,2,4-thiadiazole | 300 mg | CS(=O)(=O)C1=NSC(=N1)CC1CCCCC1 | C10H16N2O2S2
reactant | 2-butyn-1-ol | 89 mg | C(C#CC)O | C4H6O
reactant | sodium hydride | 55 mg | [H-].[Na+]
solvent | N,N-dimethylformamide | 2.5 g | CN(C=O)C | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | 5-(cyclohexyl)methyl-3-(2-butynyloxy)-1,2,4-thiadiazole | 222 mg | C1(CCCCC1)CC1=NC(=NS1)OCC#CC | C13H18N2OS
